US06936612B2
4-{6-[8-Cyclopentyl-6-(2-ethoxy-ethoxy)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-piperazine-1-carboxylic acid tert-butyl ester (70 mg, 0.12 mmol) was dissolved in CH2Cl2 (2.5 mL) and 2 M HCl in ether (2.5 mL) was added. This mixture was stirred for 2 h at room temperature and a yellow precipitate formed. The solvents were removed under reduced pressure and the resulting solid was suspended in ether and collected by filtration then dried overnight in vacuo at 50° C. to give 8-cyclopentyl-6-(2-ethoxy-ethoxy)-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt (30 mg, 52%). MS (APCI); M++1: Calc'd, 480.3. Found 480.4. Anal. Calc'd for C25H33N7O3 2HCl 3.44 H2O: C, 48.87; H, 6.87; N, 15.96. Found; C, 48.48; H, 6.66; N, 15.66.

reactant | 4-{6-[8-Cyclopentyl-6-(2-ethoxy-ethoxy)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-piperazine-1-carboxylic acid tert-butyl ester | 0.12 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)OCCOCC)=O)C2CCCC2 | C30H41N7O5
reactant | HCl | 2 M | Cl | ClH
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 2.5 mL | CCOCC | C4H10O
product | 8-cyclopentyl-6-(2-ethoxy-ethoxy)-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 30 mg, 52% | Cl.C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)OCCOCC)=O | InChI=1S/C25H33N7O3.ClH/c1-2-34-13-14-35-21-15-18-16-28-25(30-23(18)32(24(21)33)19-5-3-4-6-19)29-22-8-7-20(17-27-22)31-11-9-26-10-12-31;/h7-8,15-17,19,26H,2-6,9-14H2,1H3,(H,27,28,29,30);1H
